US05610293
E. Synthesis of [Manganese(II)dichloro(2-Phenylmethyl-1,4,7,10,13-pentaazacyclopentadecane)]
A solution of 2-phenylmethyl-1,4,7,10,13-pentaazacyclopentadecane prepared as in Example 6D (1.5 g, 4.9 mmole) and anhydrous manganese(II) chloride (0.62 g, 4.9 mmole) in anhydrous methanol was refluxed under a dry nitrogen atmosphere overnight. The solution was filtered and the solvent removed in vacuo. The yellow gummy solid was purified by stirring vigorously in acetone to give 1.89 g (89% yield) of the product as a white solid: FAB mass spectrum (NBA) m/z (relative intensity) 395/397 [(M-Cl)+, 100/31]; Anal. calcd. for C17H31Cl2 nN5 : C, 47.34; H, 7.24; Cl, 16.44; N, 16.24. Found: C, 46.84; H, 7.51; Cl, 16.38; N, 15.86.

reactant | 2-phenylmethyl-1,4,7,10,13-pentaazacyclopentadecane | C1(=CC=CC=C1)CC1NCCNCCNCCNCCNC1 | C17H31N5
reactant | manganese(II) chloride | 4.9 mmole, 0.62 g | [Cl-].[Mn+2].[Cl-]
solvent | methanol | CO | CH4O
product | Manganese(II)dichloro(2-Phenylmethyl-1,4,7,10,13-pentaazacyclopentadecane) | 1.89 g, 89% yield | ClC1(N(CCNCCNCCNCCNC1)Cl)CC1=CC=CC=C1.[Mn+2] | InChI=1S/C17H29Cl2N5.Mn/c18-17(14-16-4-2-1-3-5-16)15-23-11-10-21-7-6-20-8-9-22-12-13-24(17)19;/h1-5,20-23H,6-15H2;/q;+2
